US08580841B2
Step D: Preparation of 2-(7-(4-(Pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a stirred solution of ethyl 2-(7-(4-(pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (15 mg, 0.035 mmol) in dioxane (1 mL) was added 1 M lithium hydroxide solution (0.175 mL, 0.175 mmol). The reaction mixture was stirred at room temperature for 5 h and acidified with HCl solution. The mixture was purified by HPLC to give the title compound (8 mg) as a pinkish solid. LCMS m/z=400.4 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 2.04-2.12 (m, 1H), 2.35 (dd, J=16.0 and 9.0 Hz, 1H), 2.62-2.75 (m, 4H), 3.44-3.50 (m, 1H), 5.17 (s, 2H), 6.74 (dd, J=8.7 and 2.4 Hz, 1H), 6.95 (d, J=2.4 Hz, 1H), 7.21 (d, J=8.7 Hz, 1H), 7.62 (d, J=8.2 Hz, 2H), 8.15 (d, J=8.3 Hz, 2H), 8.61 (d, J=2.5 Hz, 1H), 8.72 (dd, J=2.3 and 1.6 Hz, 1H), 9.26 (d, J=1.5 Hz, 1H), 10.47 (s, 1H), 12.20 (s, 1H).

reactant | ethyl 2-(7-(4-(pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.035 mmol, 15 mg | N1=C(C=NC=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1 | C26H25N3O3
reactant | lithium hydroxide | 0.175 mmol, 1 M, 0.175 mL | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(4-(Pyrazin-2-yl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 8 mg | N1=C(C=NC=C1)C1=CC=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1 | C24H21N3O3
